US06787560B2
N-(2-(3-methoxyphenyl) ethyl)-4-(2-ethyl-5-methoxy-benzyl)piperidine hydrochloride
Trifluoroacetic acid (0.5 ml) was added dropwise to a solution of N-(2-(3-methoxyphenyl)ethyl)-4-(2-(1-hydroxyethyl)-5-methoxybenzyl)piperidine (250 mg, 0.65 mmol) and triethylsilane (91 mg, 0.78 mmol) in dichloromethane (5 ml) under ice-cooling, and the reaction mixture was stirred as it was for 2 hours. Ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution were added thereto to effect separation, and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a silica gel column chromatography (chloroform/methanol=50/1) to obtain a mixture of N-(2-(3-methoxyphenyl)ethyl)-4-(2-ethyl-5-methoxybenzyl)piperidine and triethylsilanol. This mixture was dissolved in dichloromethane (5 ml), followed by adding thereto a 1N hydrogen chloride-diethyl ether solution (1 ml, 1 mmol), and the solvent was distilled off under reduced pressure. The residue was suspended in diethyl ether and the precipitate was collected by filtration and washed with diethyl ether to obtain the title compound (209 mg, 79%) as white powder.

reactant | Trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(2-(3-methoxyphenyl)ethyl)-4-(2-(1-hydroxyethyl)-5-methoxybenzyl)piperidine | 0.65 mmol, 250 mg | COC=1C=C(C=CC1)CCN1CCC(CC1)CC1=C(C=CC(=C1)OC)C(C)O | C24H33NO3
reactant | triethylsilane | 0.78 mmol, 91 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | N-(2-(3-methoxyphenyl)ethyl)-4-(2-ethyl-5-methoxybenzyl)piperidine | COC=1C=C(C=CC1)CCN1CCC(CC1)CC1=C(C=CC(=C1)OC)CC | C24H33NO2
reactant | triethylsilanol | C(C)[Si](O)(CC)CC | C6H16OSi
reactant | hydrogen chloride diethyl ether | 1 mmol, 1N, 1 ml | Cl.C(C)OCC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(3-methoxyphenyl) ethyl)-4-(2-ethyl-5-methoxy-benzyl)piperidine hydrochloride | 209 mg, 79% | Cl.COC=1C=C(C=CC1)CCN1CCC(CC1)CC1=C(C=CC(=C1)OC)CC | InChI=1S/C24H33NO2.ClH/c1-4-21-8-9-24(27-3)18-22(21)16-20-11-14-25(15-12-20)13-10-19-6-5-7-23(17-19)26-2;/h5-9,17-18,20H,4,10-16H2,1-3H3;1H
